US03932508
A mixture of 3,3-dimethyl-2-butanone (1.13 mole), ethanol (1.5 g.) and dichloromethane (300 ml) was introduced into a sealed and pressure tested 2-liter vessel under reduced pressure. Trifluoromethanesulfenyl chloride (1.05 mole) was then added to the cooled, evacuated vessel. (Caution: It should be noted that trifluoromethanesulfenyl chloride is a highly hazardous material which must be handled with care to avoid inhalation and contact with the skin.) The vessel was warmed to about 25°C. and then rocked for 21/2 to 3 days. The vessel was vented through a cold gas trap (-78°C.) to trap any unreacted trifluoromethane sulfenyl chloride, and then through a scrubbing system to remove the vented hydrogen chloride gas. Residual liquid was transferred to a flask and distilled to give 1-trifluoromethylthio-3,3-dimethyl-2-butanone, b.p. 65°C./10mmHg.

reactant | 3,3-dimethyl-2-butanone | 1.13 mole | CC(C(C)=O)(C)C | C6H12O
reactant | ethanol | 1.5 g | C(C)O | C2H6O
reactant | Trifluoromethanesulfenyl chloride | 1.05 mole | FC(SCl)(F)F | CClF3S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 1-trifluoromethylthio-3,3-dimethyl-2-butanone | FC(SCC(C(C)(C)C)=O)(F)F | C7H11F3OS
